US09422271B2
(Step 4) A solution of 3-cyclopropyl-1H-pyrazol-5-amine (12.241 g, 99.39 mmol, 1.5 equiv.) in EtOH was added to a solution of compound 2,4-dibromo-5-((trimethylsilyl)ethynyl) pyrimidine (22.136 g, 66.26 mmol,) in EtOH (220 mL) at 20° C. After 12 h, EtOH was evaporated under reduce pressure. The residue was purified by silica-gel column chromatography (mobile phase: petroleum ether/ethyl acetate=20/1˜5/1) to afford solid product 2-Bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-((trimethylsilyl)ethynyl) pyrimidin-4-amine (9.948 g, 40%). LC-MS (m/z)=377.0 [M+H]+.

reactant | 3-cyclopropyl-1H-pyrazol-5-amine | 99.39 mmol, 12.241 g, 1.5 equiv. | C1(CC1)C1=NNC(=C1)N | C6H9N3
reactant | 2,4-dibromo-5-((trimethylsilyl)ethynyl) pyrimidine | 66.26 mmol, 22.136 g | BrC1=NC=C(C(=N1)Br)C#C[Si](C)(C)C | C9H10Br2N2Si
solvent | EtOH | CCO | C2H6O
solvent | EtOH | 220 mL | CCO | C2H6O
product | 2-Bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-((trimethylsilyl)ethynyl) pyrimidin-4-amine | 9.948 g, 40% | BrC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)C#C[Si](C)(C)C | C15H18BrN5Si
